US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-methoxybenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and o-anisoyl chloride in a similar manner as described above to give a pale orange solid (67% yield). 1H-NMR (CDCl3): δ 9.06 (s, 1H), 8.31 (d, 1H), 8.25 (dd, 1H), 7.60 (d, 1H), 7.46 (m, 1H), 7.20 (dd, 1H), 7.17 (dd, 1H), 7.10 (m, 1H), 6.96 (d, 1H), 5.31 (m, 1H), 3.91 (s, 3H), 2.72 (m, 2H), 2.31 (m, 1H), 1.98 (m, 3H); MS m/z 399 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | o-anisoyl chloride | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-methoxybenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=C(C=CC=C1)OC)=O | C20H19BrN2O2
